US06329389B1
Benzofuran-2-carbonitrile
Potassium carbonate (65.2 g) was added to a DMF solution (500 ml) of (2-formylphenyl)oxyacetonitrile (38 g), which was stirred at 60° C. for 2.5 hours. Water was added to the reaction mixture, which was extracted with diethyl ether. The organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=10/1) to obtain the entitled compound (14.5 g).

reactant | Potassium carbonate | 65.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
reactant | (2-formylphenyl)oxyacetonitrile | 38 g | C(=O)C1=C(C=CC=C1)OCC#N | C9H7NO2
solvent | Water | O | H2O
product | Benzofuran-2-carbonitrile | 14.5 g | O1C(=CC2=C1C=CC=C2)C#N | C9H5NO
